US07585858B2
8-(2-methylbenzyl)-1,4-dioxaspiro(4.5)decan-8-ol
A solution of 2-methylbenzyl chloride (0.579 g, 4.12 mmol) in THF (20 mL) was treated with Mg (0.180 g, 7.50 mmol) and strirred at room temperature until all the Mg had dissolved. The mixture was cooled to 0° C., treated with a solution of 1,4-cyclohexanedione mono-ethylene ketal (0.579 g, 4.12 mmol) in THF (50 mL), warmed to room temperature, stirred overnight, quenched with saturated NH4Cl (100 mL), and extracted with ethyl acetate (3×100 mL). The combined extracts were washed with water and brine, dried (Na2SO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 6:1 hexanes/ethyl acetate to provide the desired product (0.48 g, 44%) MS (ESI) m/e 262 (M+H)+.

reactant | 2-methylbenzyl chloride | 4.12 mmol, 0.579 g | CC1=C(CCl)C=CC=C1 | C8H9Cl
reactant | 1,4-cyclohexanedione mono-ethylene ketal | 4.12 mmol, 0.579 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 8-(2-methylbenzyl)-1,4-dioxaspiro(4.5)decan-8-ol | 0.48 g, 44% | CC1=C(CC2(CCC3(OCCO3)CC2)O)C=CC=C1 | C16H22O3
